US06756378B2
A mixture of 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (89 mg, 0.283 mmol), methyl-2-[(2S,4S)-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxypyridine-5-carboxylate (107 mg, 0.78 mmol), EDC.HCl (81 mg, 0.425 mmol) and DMAP (52 mg, 0.425 mmol) in DMF (3 ml) was stirred at room temperature for 18 h. The mixture was poured into ice water and extracted with EtOAc. The combined extracts were washed with ice water and brine. After dried over Na2SO4, the extracts were concentrated in vacuo. The residue was purified on TLC [CHCl3/MeOH (10/1)], to give 2-[(2S,4S)-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxy-5-pyridinecarboxylic acid methyl ester (193 mg, 100%) as a colorless amorphous. 1H-NMR (CDCl3) δ2.27 (d, J=3.2 Hz, 3H), 2.30 (m, 1H), 2.49 (dd, J=14.2, 2.0 Hz, 1H), 3.60 (d, J=3.9 Hz, 1H), 3.67 (d, J=5.9 Hz, 3H), 3.81 (s, 1H), 3.85 (s, 1H), 3.88 and 3.91 (s, 3H, amide isomers), 3.95 (m, 1H), 4.02-5.09 (m, 4H), 6.67 (d, J=8.8 Hz, 1H), 6.73-7.13 (m, 3H), 7.20-7.45 (m, 7H), 7.53 (t, J=7.8 Hz, 1H), 7.67-7.77 (m, 3H), 8.02-8.84 (m, 3H).

reactant | 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 0.283 mmol, 89 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | methyl-2-[(2S,4S)-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxypyridine-5-carboxylate | 0.78 mmol, 107 mg | COC(=O)C=1C=CC(=NC1)OC[C@H]1NC[C@H](C1)OC1=CC2=CC=CC=C2C=C1 | C22H22N2O4
reactant | EDC.HCl | 0.425 mmol, 81 mg | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 0.425 mmol, 52 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[(2S,4S)-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxy-5-pyridinecarboxylic acid methyl ester | 193 mg, 100% | COC(=O)C=1C=CC(=NC1)OC[C@H]1N(C[C@H](C1)OC1=CC2=CC=CC=C2C=C1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C39H38N4O7
